US07795247B2
BH3Me2S (1.6 eq, 2M solution in THF) was added to a 0.2M solution of methyl 14-cyclohexyl-7,8-dihydroindolo[2,1-a][2]benzazocine-11-carboxylate in THF, and the mixture was stirred for 2 h at RT. 3M aq NaOH (3 eq) and 35% H2O2 (3 eq) were added at 0° C., and stirring was continued overnight at RT. After dilution with sat NaHCO3 the aq. phase was extracted with EtOAc, the organic phase was washed with water and brine, dried over Na2SO4 and concentrated in vacuo to give mainly methyl 14-cyclohexyl-5-hydroxy-5,6,7,8-tetrahydroindolo[2,1-a][2]benzazocine-11-carboxylate (with traces of its regioisomer methyl 14-cyclohexyl-6-hydroxy-5,6,7,8-tetrahydroindolo[2,1-a][2]benzazocine-11-carboxylate).

reactant | methyl 14-cyclohexyl-7,8-dihydroindolo[2,1-a][2]benzazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=CCC2)C=CC=C1)C(=O)OC | C26H27NO2
reactant | NaOH | 3M, 3 eq | [OH-].[Na+]
reactant | H2O2 | 3 eq | OO | H2O2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 14-cyclohexyl-5-hydroxy-5,6,7,8-tetrahydroindolo[2,1-a][2]benzazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C(CCC2)O)C=CC=C1)C(=O)OC | C26H29NO3
